US07189850B2
(rac,cis) 8-(2-Hydroxy-2-pyridin-4-yl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound was prepared from rac-8-(2-oxo-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and 4-pyridyl-lithium in analogy of the procedure described for the synthesis of (rac,cis)-8-(2-hydroxy-2-phenyl-cyclohexyl)-1-(3-methyl-butyl)-1,3,8-triaza-spiro[4.5]decan-4-one (Example 73e). (rac,cis) 8-(2-Hydroxy-2-pyridin-4-yl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one was obtained as colorless solid, MS (ISP): 407.4 MH+.

reactant | rac-8-(2-oxo-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | O=C1C(CCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C19H25N3O2
reactant | 4-pyridyl-lithium | N1=CC=C(C=C1)[Li]
product | 8-(2-Hydroxy-2-pyridin-4-yl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | OC1(C(CCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C1=CC=NC=C1 | C24H30N4O2
